US07745414B2
4-(β-D-glucopyranos-1-yl)-2-(4-methoxyethoxy-benzyl)-benzonitrile
2-Bromoethyl methyl ether (85 μl) is added to a mixture of 4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzonitrile (0.30 g) and cesium carbonate (0.39 g) in 3 mL of dimethylformamide. The mixture is stirred at 80° C. for 16 h, before water and brine are added. The resulting mixture is extracted with ethyl acetate, the combined extracts are dried over sodium sulphate and the solvent is removed under reduced pressure. The residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0->5:1).

reactant | 2-Bromoethyl methyl ether | 85 μl | COCCBr | C3H7BrO
reactant | 4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzonitrile | 0.30 g | O[C@]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C#N)C=C1)CC1=CC=C(C=C1)O | C20H21NO7
reactant | cesium carbonate | 0.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-(β-D-glucopyranos-1-yl)-2-(4-methoxyethoxy-benzyl)-benzonitrile | O[C@]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C#N)C=C1)CC1=CC=C(C=C1)OCCOC | C23H27NO8
